US07371869B2
2-[(S)-2-tert-Butoxycarbonylamino-3-(2-cyano-phenyl)-propionylamino]-thiazole-4-carboxylic acid methyl ester (3.2 g, 7.4 mmol) was dissolved into dry dichloromethane (20 mL) and trifluoroacetic acid (25 mL, 325 mmol) was added. The reaction mixture was stirred at room temperature for 1 hour. The mixture was concentrated to dryness. The residue was cooled in an ice bath, then neutralized with saturated aqueous sodium bicarbonate solution. The mixture was extracted with ethyl acetate. The organic layer was separated, dried over sodium sulfate and concentrated to give crude 2-[(S)-2-amino-3-(2-cyano-phenyl)-propionylamino]-thiazole-4-carboxylic acid methyl ester as a pale yellow solid (2.1 g, 86%).

reactant | 2-[(S)-2-tert-Butoxycarbonylamino-3-(2-cyano-phenyl)-propionylamino]-thiazole-4-carboxylic acid methyl ester | 7.4 mmol, 3.2 g | COC(=O)C=1N=C(SC1)NC([C@H](CC1=C(C=CC=C1)C#N)NC(=O)OC(C)(C)C)=O | C20H22N4O5S
reactant | trifluoroacetic acid | 325 mmol, 25 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-[(S)-2-amino-3-(2-cyano-phenyl)-propionylamino]-thiazole-4-carboxylic acid methyl ester | 2.1 g, 86% | COC(=O)C=1N=C(SC1)NC([C@H](CC1=C(C=CC=C1)C#N)N)=O | C15H14N4O3S
